Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],5.17085413511
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7].[C:8]>>[C:1]/[C:2]([H:3])=[C:4](\[H:5])[O:6][C:7]#[C:8],-5.84526448345
[C:1]#[C:2][O:3][C:4](=[O:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4][C:6]([H:7])([H:8])[H:9].[O:5],7.864864040710001
[H:1][C:2]1=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],3.36519255623
[H:1][C:2]([H:3])[O:4][C:5]1[C:6]([H:7])([H:8])[O:9][C:10]1([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12],2.3891719258099995
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7](=[O:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-0.919395906376
[C:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:7]>>[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.83800867256
[H:1]/[C:2](=[C:3]\[O:4][C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2](=[C:3]=[O:4])[C:10]([H:11])([H:12])[H:13],0.72244022382
[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7],-3.84106009446
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.54336807331
[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-4.35053389119
[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-4.93228084528
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:4],1.66119118811
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14].[O:1],4.14289948931
[H:1][C:2]#[C:3].[O:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][O:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.10012446842
[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:9]([H:10])[H:11],-7.18288352773
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],4.03948076471
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6],4.65769970059
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:10]([H:11])([H:12])[H:13].[H:9],4.8607771598400005
[C:3]([H:4])(=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-2.67885069824
[H:1][O:2][C:3]([C:4]([H:5])[H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],5.58271083137
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],4.6179033383
[O:1]=[C:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:4].[O:1]=[C:2]=[C:3]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],1.92621322464
[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-6.63665239082
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10],1.76477317687
[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-2.14066226
[C:2]#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][C:7]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-2.82945248917
[C:4]([H:5])=[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-6.622248622560001
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9],4.87559512514
